US05003089
1 g of pyridinium p-toluenesulfonate was added to a mixture consisting of 152 g (2 moles) of 1,2-propanediol, 148 g (2 moles) of 85% strength methoxyacetaldehyde and 400 ml of cyclohexane, and the resulting mixture was refluxed under a water separator until water no longer separated off. The solution obtained was washed with water, the solvent was stripped off under reduced pressure and the residue was subjected to fractional distillation under reduced pressure. 245 g (93% yield) of 2-methoxymethyl-4-methyl-1,3-dioxolane of boiling point 79°-82° C./70 mbar were obtained.

reactant | pyridinium p-toluenesulfonate | 1 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
reactant | 1,2-propanediol | 2 moles, 152 g | C(C(C)O)O | C3H8O2
reactant | methoxyacetaldehyde | COCC=O | C3H6O2
reactant | cyclohexane | 400 ml | C1CCCCC1 | C6H12
solvent | water | O | H2O
product | 2-methoxymethyl-4-methyl-1,3-dioxolane | 245 g, 93% yield | COCC1OCC(O1)C | C6H12O3
